US09303023B2
To a solution of 4-nitro-1H-pyrazole (2.50 g, 21.45 mmol) in MeCN (30 mL), Cs2CO3 (8.39 g, 25.74 mmol) and 2-(boc-amino)ethyl bromide (5.45 g, 23.59 mmol) was added. The resulting mixture was refluxed (80° C.) for 1.5 h, then the reaction mixture was allowed to reach rt. The mixture was diluted with DCM, filtered, the filter cake was washed with DCM and the filtrate was concentrated in vacuo. The residue was partitionned between water and EtOAc, the org. layer was separated and the aq. layer was extracted with EtOAc (1×). The combined org. layers were washed with brine, dried (MgSO4) and concentrated in vacuo. Purification was performed by FC (EtOAc/hept 7:3 to EtOAc/MeOH 9:1) to obtain tert-butyl(2-(4-nitro-1H-pyrazol-1-yl)ethyl)carbamate as a slightly yellow solid which was used without further purification in the next step. LC-MS conditions A: tR=0.72 min, [M+H]+=257.08.

reactant | 4-nitro-1H-pyrazole | 21.45 mmol, 2.50 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | Cs2CO3 | 25.74 mmol, 8.39 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-(boc-amino)ethyl bromide | 23.59 mmol, 5.45 g | C(=O)(OC(C)(C)C)NCCBr | C7H14BrNO2
solvent | MeCN | 30 mL | CC#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tert-butyl(2-(4-nitro-1H-pyrazol-1-yl)ethyl)carbamate | C(C)(C)(C)OC(NCCN1N=CC(=C1)[N+](=O)[O-])=O | C10H16N4O4
